US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-(5-ethyl-4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (231 mg, 0.805 mmol), 1-(5-ethyl-4-phenyl-1,3-thiazol-2-yl)piperazine (200 mg, 0.732 mmol) and diisopropylethylamine (0.255 ml, 1.46 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 15 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the desired product (106 mg, 35.3%) as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.805 mmol, 231 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-(5-ethyl-4-phenyl-1,3-thiazol-2-yl)piperazine | 0.732 mmol, 200 mg | C(C)C1=C(N=C(S1)N1CCNCC1)C1=CC=CC=C1 | C15H19N3S
reactant | diisopropylethylamine | 1.46 mmol, 0.255 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-(5-ethyl-4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 106 mg, 35.3% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C=1SC(=C(N1)C1=CC=CC=C1)CC | C21H25N5O2S
